Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C(OCc1ccccc1)[NH:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][c:9]([C:10]([N:11]([CH:12]([CH3:14])[CH3:13])[C@@H:15]3[CH2:16][CH2:17][CH2:18][N:19]([C:20](=[O:21])[O:22][C:23]([CH3:24])([CH3:25])[CH3:26])[CH2:27]3)=[O:28])[cH:29]2)[C:30]([CH3:31])([CH3:32])[C:33]1=[O:34]>>[NH2:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][c:9]([C:10]([N:11]([CH:12]([CH3:13])[CH3:14])[C@@H:15]3[CH2:16][CH2:17][CH2:18][N:19]([C:20](=[O:21])[O:22][C:23]([CH3:24])([CH3:25])[CH3:26])[CH2:27]3)=[O:28])[cH:29]2)[C:30]([CH3:31])([CH3:32])[C:33]1=[O:34],[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[NH:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][c:9]([C:10]([N:11]([CH:12]([CH3:13])[CH3:14])[C@@H:15]3[CH2:16][CH2:17][CH2:18][N:19]([C:20](=[O:21])[O:22][C:23]([CH3:24])([CH3:25])[CH3:26])[CH2:27]3)=[O:28])[cH:29]2)[C:30]([CH3:31])([CH3:32])[C:33]1=[O:34].[BrH:301]>>[NH2:1][CH2:2][CH2:3][N:4]1[c:5]2[c:6]([cH:7][cH:8][c:9]([C:10]([N:11]([CH:12]([CH3:13])[CH3:14])[C@@H:15]3[CH2:16][CH2:17][CH2:18][N:19]([C:20](=[O:21])[O:22][C:23]([CH3:24])([CH3:25])[CH3:26])[CH2:27]3)=[O:28])[cH:29]2)[C:30]([CH3:31])([CH3:32])[C:33]1=[O:34],Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10][cH:11]1.[CH3:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][NH2:22]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10][cH:11]1)[NH:22][CH2:21][CH2:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH3:12],[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10][cH:11]1.[CH3:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][NH2:22]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10][cH:11]1)[NH:22][CH2:21][CH2:20][CH2:19][CH2:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH3:12],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(22, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[O:2]=[CH:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][c:20]12>>[CH3:1][n:6]1[cH:5][c:4]([CH:3]=[O:2])[c:20]2[c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[cH:19]2,[O:2]=[CH:3][c:4]1[cH:5][nH:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][c:20]12.[I:101][CH3:1]>>[CH3:1][n:6]1[cH:5][c:4]([CH:3]=[O:2])[c:20]2[c:7]1[cH:8][cH:9][c:10]([O:11][CH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[cH:19]2,SN2,"[(6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][s:9]1)[N:10]1[CH2:15][CH2:14][O:13][CH2:12][CH2:11]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][s:9]1)[N:10]1[CH2:11][CH2:12][O:13][CH2:14][CH2:15]1,[O:101]=[C:1]([CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][s:9]1)[N:10]1[CH2:11][CH2:12][O:13][CH2:14][CH2:15]1.[AlH4-:301].[AlH4-:302]>>[CH2:1]([CH2:2][CH2:3][CH2:4][c:5]1[cH:6][cH:7][cH:8][s:9]1)[N:10]1[CH2:11][CH2:12][O:13][CH2:14][CH2:15]1,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (10, [10, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 10], 10)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH:2]([CH3:3])[CH3:4])=[O:5].[CH3:6][c:7]1[cH:8][c:9]([C:10]2=[N:11][O:12][C:13]([c:14]3[cH:15][c:16]([Cl:17])[cH:18][c:19]([Cl:20])[cH:21]3)([C:22]([F:23])([F:24])[F:25])[CH2:26]2)[cH:27][cH:28][c:29]1[C:30](=[O:31])[NH:32][c:33]1[n:34][cH:35][c:36]([Br:37])[cH:38][n:39]1>>[C:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])[N:32]([C:30]([c:29]1[c:7]([CH3:6])[cH:8][c:9]([C:10]2=[N:11][O:12][C:13]([c:14]3[cH:15][c:16]([Cl:17])[cH:18][c:19]([Cl:20])[cH:21]3)([C:22]([F:23])([F:24])[F:25])[CH2:26]2)[cH:27][cH:28]1)=[O:31])[c:33]1[n:34][cH:35][c:36]([Br:37])[cH:38][n:39]1,[CH3:6][c:7]1[cH:8][c:9]([C:10]2=[N:11][O:12][C:13]([c:14]3[cH:15][c:16]([Cl:17])[cH:18][c:19]([Cl:20])[cH:21]3)([C:22]([F:23])([F:24])[F:25])[CH2:26]2)[cH:27][cH:28][c:29]1[C:30](=[O:31])[NH:32][c:33]1[n:34][cH:35][c:36]([Br:37])[cH:38][n:39]1.[Cl:101][C:1]([CH:2]([CH3:3])[CH3:4])=[O:5]>>[C:1]([CH:2]([CH3:3])[CH3:4])(=[O:5])[N:32]([C:30]([c:29]1[c:7]([CH3:6])[cH:8][c:9]([C:10]2=[N:11][O:12][C:13]([c:14]3[cH:15][c:16]([Cl:17])[cH:18][c:19]([Cl:20])[cH:21]3)([C:22]([F:23])([F:24])[F:25])[CH2:26]2)[cH:27][cH:28]1)=[O:31])[c:33]1[n:34][cH:35][c:36]([Br:37])[cH:38][n:39]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(32, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
